US06177449B1
b) N-[6-Benzyloxy-2,2-dimethylchroman-4-yl]-N-methylethanesulfonamide
Analogously to Example 1f, 8.6 g (23 mmol) of 6-benzyloxy-4-(ethylsulfonyl)amino-2,2-dimethylchroman were introduced in portions into a suspension of 1 g (25 mmol) of sodium hydride (60% dispersion) in 75 ml of DMA at 10° C. After stirring at RT for 2 h, 1.6 ml (25 mmol) of methyl iodide were added dropwise, the temperature rising to 40° C. The mixture was then heated to 35-45° C. for 2 h, and concentrated in vacuo, the residue was treated with water, the resinous product was taken up with EA, the solution was dried and concentrated, and the residue was chromatographed using n-heptane/EA (1:1) on silica gel. 7.4 g of product were crystallized from appropriate fractions using petroleum ether/diisopropyl ether, m.p. 91-93° C.

reactant | 6-benzyloxy-4-(ethylsulfonyl)amino-2,2-dimethylchroman | 23 mmol, 8.6 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)NS(=O)(=O)CC | C20H25NO4S
reactant | sodium hydride | 25 mmol, 1 g | [H-].[Na+]
reactant | methyl iodide | 25 mmol, 1.6 ml | CI | CH3I
solvent | DMA | 75 ml | CC(=O)N(C)C | C4H9NO
product | N-[6-Benzyloxy-2,2-dimethylchroman-4-yl]-N-methylethanesulfonamide | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)N(S(=O)(=O)CC)C | C21H27NO4S
